US08497264B2
1-Chloro-N,N,2-trimethylprop-1-en-1-amine (2.84 ml, 21.28 mmol) was added to a solution of N-((7-bromo-3-chloro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)carbamothioyl)-4-nitrobenzamide (12 g, 21.28 mmol) in DCM (200 ml). The reaction mixture was stirred at RT for 8 hours and then concentrated under reduced pressure to 50% of its original volume. A precipitate formed upon cooling which was filtered off, washed with DCM and then dried under reduced pressure to afford N-(7-bromo-3-chloro-5′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,4′-[1,3]thiazin]-2′-yl)-4-nitrobenzamide hydrochloride (10.5 g, 18.03 mmol, 85% yield) as an off white solid.

reactant | 1-Chloro-N,N,2-trimethylprop-1-en-1-amine | 21.28 mmol, 2.84 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N-((7-bromo-3-chloro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)carbamothioyl)-4-nitrobenzamide | 21.28 mmol, 12 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(CCO)NC(=S)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C22H16BrClN4O5S
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(7-bromo-3-chloro-5′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,4′-[1,3]thiazin]-2′-yl)-4-nitrobenzamide hydrochloride | 18.03 mmol, 10.5 g, 85% yield | Cl.BrC=1C=C2C(=CC1)OC=1C=NC(=CC1C21N=C(SCC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | InChI=1S/C22H14BrClN4O4S.ClH/c23-13-3-6-17-15(9-13)22(16-10-19(24)25-11-18(16)32-17)7-8-33-21(27-22)26-20(29)12-1-4-14(5-2-12)28(30)31;/h1-6,9-11H,7-8H2,(H,26,27,29);1H
